US07323599B2
EP-A-1201642 therefore describes a process for preparing amines from halogenated aromatics with anhydrous ammonia. In order to prevent dehalogenation of the aromatic, a solid acidic cocatalyst is added. In Example 6, p-chloroacetophenone together with 1.6% by weight of Raney Co and 19% by weight of ZrO2, based on the reactant, in methanol, is reacted with ammonia to give p-chlorophenylethylamine in >98% yield.

reactant | ammonia | N | H3N
reactant | p-chloroacetophenone | ClC1=CC=C(C=C1)C(C)=O | C8H7ClO
solvent | methanol | CO | CH4O
product | p-chlorophenylethylamine | >98% yield | ClC1=CC=C(C=C1)CCN | C8H10ClN
